US07423185B2
4-((1R,2S)-2-{2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]ethylamino}-1-hydroxypropyl)phenol
A mixture of 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]ethyl methanesulfonate (1.20 g) and 4-((1R,2S)-2-amino-1-hydroxypropyl)phenol (1.76 g) in N,N-dimethylformamide (20 mL) was stirred at 80° C. for 5 hrs. Ethyl acetate was added to the reaction mixture. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent:n-hexane/ethyl acetate=1/1, methylene chloride/methanol=9/1) to afford the title compound (0.24 g).

reactant | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]ethyl methanesulfonate | 1.20 g | CS(=O)(=O)OCCOC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H23BO6S
reactant | 4-((1R,2S)-2-amino-1-hydroxypropyl)phenol | 1.76 g | N[C@H]([C@H](O)C1=CC=C(C=C1)O)C | C9H13NO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-((1R,2S)-2-{2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]ethylamino}-1-hydroxypropyl)phenol | 0.24 g | CC1(OB(OC1(C)C)C1=CC=C(OCCN[C@H]([C@H](O)C2=CC=C(C=C2)O)C)C=C1)C | C23H32BNO5
